US08138189B2
3′-Chloro-4′-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-biphenyl-3-carboxylic acid ethyl ester
In analogy to Example 49, trifluoromethanesulfonic acid 3-chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenyl ester) (Example 26, step 1) was reacted with 3-ethoxycarbonylphenylboronic acid at 70° C. 4 h to give the title compound as a colorless white solid. MS (m/e)=498.1 [M+H+].

reactant | trifluoromethanesulfonic acid 3-chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenyl ester | ClC=1C=C(C=CC1C(C(C(F)(F)F)(O)C1=CC(=NC=C1)Cl)C)OS(=O)(=O)C(F)(F)F | C16H11Cl2F6NO4S
reactant | 3-ethoxycarbonylphenylboronic acid | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
product | 3′-Chloro-4′-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-biphenyl-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C(C=CC1)C1=CC(=C(C=C1)C(C(C(F)(F)F)(O)C1=CC(=NC=C1)Cl)C)Cl | C24H20Cl2F3NO3
